US08563717B2
Intermediate 48: Phenylmethyl 3-(3-hydroxypropyl)-1-piperidinecarboxylate
1-({[(Phenylmethyl)oxy]carbonyl}oxy)-2,5-pyrrolidinedione (8.70 g), 34.9 mmol) was added portionwise to a stirred mixture of 3-(3-piperidinyl)-1-propanol (5.02 g, 35 mmol) and triethylamine (5 ml, 3.63 g, 35.9 mmol) in dichloromethane (100 ml) at room temperature. The resultant mixture was allowed to stand at room temperature for 18 hours. The reaction mixture was washed with saturated aqueous sodium hydrogen carbonate (100 ml). The organic phase was dried (MgSO4), filtered and evaporated. The sample was purified by chromatography on silica (100 g cartridge loaded in dichloromethane) using a gradient of 0-100% ethyl acetate-cyclohexane over 40 mins. The appropriate fractions were combined and evaporated in vacuo to give the title compound as a colourless liquid (8.45 g).

reactant | 1-({[(Phenylmethyl)oxy]carbonyl}oxy)-2,5-pyrrolidinedione | 8.70 g | C1(=CC=CC=C1)COC(=O)ON1C(CCC1=O)=O | C12H11NO5
reactant | 3-(3-piperidinyl)-1-propanol | 35 mmol, 5.02 g | N1CC(CCC1)CCCO | C8H17NO
reactant | triethylamine | 35.9 mmol, 5 ml, 3.63 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Phenylmethyl 3-(3-hydroxypropyl)-1-piperidinecarboxylate | 8.45 g | OCCCC1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C16H23NO3
